US04992433
A mixture of 14 parts of (cyclopropylmethyl) 4-(phenylmethoxy)benzoate and 200 parts of 2-propanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 8.1 parts (100%) of (cyclopropylmethyl) 4-hydroxybenzoate as a residue (int. 4).

reactant | (cyclopropylmethyl) 4-(phenylmethoxy)benzoate | C1(=CC=CC=C1)COC1=CC=C(C(=O)OCC2CC2)C=C1 | C18H18O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | 2-propanol | CC(C)O | C3H8O
product | (cyclopropylmethyl) 4-hydroxybenzoate | 100% | OC1=CC=C(C(=O)OCC2CC2)C=C1 | C11H12O3
